US05089645
A mixture of 24.9 g (0.10 moles) dibutyltin oxide, 30.4 g (0.20 mole) 4-hydroxyphenylacetic acid, and 300 ml toluene were charged to a 3-necked round bottom flask equipped with a stirrer, thermocouple or thermometer, and condenser with a DEAN-STARK water trap, and heated at reflux temperature until all the water of reaction was collected in the trap. The toluene was removed using a flash evaporator to yield 53 g (99%) of dibutyltin bis(4-hydroxyphenyl acetate) having a melting point of 121°-126° C.

reactant | dibutyltin oxide | 0.10 moles, 24.9 g | C(CCC)[Sn](CCCC)=O
reactant | 4-hydroxyphenylacetic acid | 0.20 mole, 30.4 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | dibutyltin bis(4-hydroxyphenyl acetate) | 53 g, 99% | OC1=CC=C(C=C1)CC(=O)[O-].OC1=CC=C(C=C1)CC(=O)[O-].C(CCC)[Sn+2]CCCC | InChI=1S/2C8H8O3.2C4H9.Sn/c2*9-7-3-1-6(2-4-7)5-8(10)11;2*1-3-4-2;/h2*1-4,9H,5H2,(H,10,11);2*1,3-4H2,2H3;/q;;;;+2/p-2
